US04645765
To a solution of 6,9-dihydroxy-4-hydroxymethyl-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-8-ylmethyl carbamate (21 mg) in pyridine (1 ml) was added acetic anhydride (34 μl), and the mixture was allowed to stand at room temperature overnight. The reaction mixture was evaporated to dryness in vacuo, and the residual oil was subjected to preparative thin layer chromatography, which was developed with a mixture of methanol and chloroform (5:95, v/v) to give 4-acetoxymethyl-11-acetyl-8-carbamoyloxymethyl-9-hydroxy-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-6-yl acetate (24 mg).

reactant | 6,9-dihydroxy-4-hydroxymethyl-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-8-ylmethyl carbamate | 21 mg | C(N)(OCC1C2=C(C=C(C=C2N2CC3NC3C1(O2)O)CO)O)=O | C14H17N3O6
reactant | acetic anhydride | 34 μl | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | 4-acetoxymethyl-11-acetyl-8-carbamoyloxymethyl-9-hydroxy-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-6-yl acetate | 24 mg | C(C)(=O)OC=1C=C(C=C2N3CC4N(C4C(C(C12)COC(N)=O)(O3)O)C(C)=O)COC(C)=O | C20H23N3O9
